US06844362B2
Methyl 2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)benzoate
A solution of methyl 2-(benzyloxy)-5-[(1R)-2-bromo-1-hydroxyethyl]benzoate (71.05 g, 195 mmol), imidazole (18.52 g, 272 mmol), tert-butyldimethylsilyl chloride (32.23 g, 214 mmol) and 4-(dimethylamino)pyridine (0.44 g, 3.6 mmol) in DMF (270 ml) was left to stir at room temperature under a nitrogen atmosphere for a period of 24 hours. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (500 ml) and water (500 ml). The organic phase was separated and washed with 2N hydrochloric acid (2-fold 500 ml), saturated aqueous sodium bicarbonate (2-fold 500 ml) saturated sodium chloride (500 ml), dried (magnesium sulphate) and the solvent removed in vacuo to give the title compound as a colourless oil (91.0 g).

reactant | methyl 2-(benzyloxy)-5-[(1R)-2-bromo-1-hydroxyethyl]benzoate | 195 mmol, 71.05 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)[C@H](CBr)O | C17H17BrO4
reactant | imidazole | 272 mmol, 18.52 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 214 mmol, 32.23 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-(dimethylamino)pyridine | 3.6 mmol, 0.44 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 270 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)benzoate | 91.0 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C | C23H31BrO4Si
